US07378417B2
5-(4-Chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoyl-phenyl)-amide
The title compound was prepared from 5-(4-chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.26) and 3-amino-benzenesulfonamide according to general procedure II. Pale-yellow solid. MS (ISN) 454.3 [(M−H)−]; mp 252-253° C.

reactant | 5-(4-chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)CC)N=CC2C(=O)O | C15H12ClN3O2
reactant | 3-amino-benzenesulfonamide | NC=1C=C(C=CC1)S(=O)(=O)N | C6H8N2O2S
product | 5-(4-Chloro-phenyl)-7-ethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid(3-sulfamoyl-phenyl)-amide | S(N)(=O)(=O)C=1C=C(C=CC1)NC(=O)C=1C=NN2C1N=C(C=C2CC)C2=CC=C(C=C2)Cl | C21H18ClN5O3S
